US07723336B2
6-(3-Amino-1,2-benzisoxazol-6-yl)-N-phenylimidazo[1,2-b]pyridazin-8-amine
To a solution of 6-(8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazin-6-yl)benzo[d]isoxazol-3-amine from (1b) was added TFA (1 mL) and the solution stirred at RT for 1 hour. The reaction solution was concentrated in vacuo and then diluted with methanol and purified by preparative HPLC to provide the titled compound (3.90 mg, 17%). 1H NMR (500 MHz, CD3OD) δ ppm 8.26 (1H, s), 7.92 (1H, s), 7.86 (1H, d, J=8.6 Hz), 7.80 (1H, d, J=8.25 Hz), 7.52 (4H, m), 7.35 (1H, t, J=7.15 Hz), 7.27 (1H, s). LC/MS, m/e 343 (M+1). HPLC Rt, 2.52 min. Waters Sunfire C18 column (4.6×50 mm). 0%-100% B. Solvent B: (90% MeOH, 10% H2O, 0.1% TFA). Solvent A: (10% MeOH, 90% H2O, 0.1% TFA). Gradient, start % B=0, final % B=100, gradient time 4 min, hold at 100% B 1 min, flow rate 4 mL/min.

reactant | 6-(8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazin-6-yl)benzo[d]isoxazol-3-amine | COC1=CC=C(CN(C=2C=3N(N=C(C2)C2=CC4=C(C(=NO4)N)C=C2)C=CN3)C3=CC=CC=C3)C=C1 | C27H22N6O2
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-(3-Amino-1,2-benzisoxazol-6-yl)-N-phenylimidazo[1,2-b]pyridazin-8-amine | 3.90 mg, 17% | NC1=NOC2=C1C=CC(=C2)C=2C=C(C=1N(N2)C=CN1)NC1=CC=CC=C1 | C19H14N6O
